US07932271B2
Methyl 3-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]propionate
A Raney nickel suspension (“R-100”, product of Nikko Rika Corporation) was washed sequentially with water and ethanol to give a corresponding ethanol suspension. The resulting ethanol suspension (2 ml) was added to a solution of methyl(E)-3-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]acrylate (770 mg, 1.55 mmol) in a mixture of ethanol (10 ml) and 1,4-dioxane (5 ml). Under a hydrogen atmosphere of 1 atmospheric pressure, the resulting mixture was stirred vigorously for 30 minutes. After the reaction mixture was filtered, the filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in dichloromethane (15 ml). The resulting solution was dried over magnesium sulfate, and concentrated under reduced pressure to give the title compound (720 mg, 1.44 mmol, 93%) as a white powder.

reactant | methyl(E)-3-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]acrylate | 1.55 mmol, 770 mg | ClC=1C(=CC(=NC1)/C=C/C(=O)OC)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H15Cl2F2NO4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Methyl 3-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]propionate | 1.44 mmol, 720 mg, 93% | ClC=1C(=CC(=NC1)CCC(=O)OC)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H17Cl2F2NO4S
